US04409220
2-Amino-6-ethyl-5,6,7,8-tetrahydro-pyrido[3,4-b]pyrazine dihydrochloride
This compound was prepared analogous to Example 22 from 1-ethyl-1,2,5,6-tetrahydro-3,4-bis(trimethylsilyloxy)-pyridine and α-amino-acetamidine dihydrochloride.

reactant | 1-ethyl-1,2,5,6-tetrahydro-3,4-bis(trimethylsilyloxy)-pyridine | C(C)N1CC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C13H29NO2Si2
reactant | α-amino-acetamidine dihydrochloride | Cl.Cl.NCC(=N)N
product | 2-Amino-6-ethyl-5,6,7,8-tetrahydro-pyrido[3,4-b]pyrazine dihydrochloride | Cl.Cl.NC=1N=C2C(=NC1)CN(CC2)CC | InChI=1S/C9H14N4.2ClH/c1-2-13-4-3-7-8(6-13)11-5-9(10)12-7;;/h5H,2-4,6H2,1H3,(H2,10,12);2*1H
